US06335324B1
A solution of 1-(2-pyrimidyl)piperazine dihydrochloride (4.0 g, 16.9 mmol) in 1N sodium hydroxide saturated with sodium chloride (40 ml) was extracted with ethyl acetate (2×30 ml). The organic layer was dried over sodium sulfate, filtered and concentrated to give 2.6 g of 1-(2-pyrimidyl)piperazine.

reactant | 1-(2-pyrimidyl)piperazine dihydrochloride | 16.9 mmol, 4.0 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | sodium chloride | 40 ml | [Cl-].[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-pyrimidyl)piperazine | 2.6 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
